* Z:\mnt\design.r\spice\examples\1194.asc
V1 +V 0 5
V2 -V 0 -5
V3 IN 0 SINE(0 350m 200K)
XU1 IN 0 +V -V OUT 0 N001 N001 LT1194
V4 N001 0 {VC}
.tran 7.5u
.step param VC list -5 -4 -3 -2
.lib LTC.lib
.backanno
.end
